US04511573
A solution of 5.9 g of p-mercaptobenzoic acid ethyl ester (prepared according to the procedure found in J. Chem. Soc., 1963, 1947-1954) in 30 ml of dimethylformamide is added dropwise to a slurry of 1.55 g of 50% sodium hydride (dispersion in mineral oil) in 30 ml of dimethylformamide. This mixture is stirred at room temperature for 0.5 hour under nitrogen atmosphere, and added dropwise to a solution of 9.78 g of 3-(2-methylsulfonyloxyethyl)-2-(3-pyridyl)-indole in 60 ml of dimethylformamide at -10°. This mixture is stirred at room temperature overnight and poured into 1 liter of ice-water. This is extraced several times with ether. The ether extract is washed with water, dried over MgSO4 and evaporated in vacuo to give 3-[2-(4-ethoxycarbonylphenylthio)-ethyl]-2-(3-pyridyl-indole.

reactant | p-mercaptobenzoic acid ethyl ester | 5.9 g | C(C)OC(C1=CC=C(C=C1)S)=O | C9H10O2S
reactant | sodium hydride | 1.55 g | [H-].[Na+]
reactant | 3-(2-methylsulfonyloxyethyl)-2-(3-pyridyl)-indole | 9.78 g | CS(=O)(=O)OCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C16H16N2O3S
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-pyridyl-indole | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1 | C13H10N2
